Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
minocycline
 
Attending: ___.
 
Chief Complaint:
cervical instability
 
Major Surgical or Invasive Procedure:
___ Halo application and traction
___ Occiput to C4 posterior cervical fusion

 
History of Present Illness:
Patient presents to the office for evaluation. He is s/p
fall down 10 stairs in a cellar about 4.5 weeks ago. He did not
seek care initially. However, he continued to have severe neck
pain. Approximately 4 weeks later, He had a cervical CT scan
obtained at ___ demonstrated an anterior and posterior
arch fx of C1 and a type III odontoid fx. He was sent home with
flexeril and valium to help with pain and discomfort. He was 
also
given a collar but did not wear the collar. He presents today 
for
evaluation. He has neck pain but this is improving. He has no
weakness or paresthesias. No loss of bladder or bowel control. 
No
gait ataxia or coordination difficulties. 

 
Past Medical History:
Rheumatoid arthritis
 
Social History:
___
Family History:
nc
 
Physical Exam:
  GENERAL APPEARANCE: in no acute distress, well developed,
well nourished. 
       HEAD: normocephalic, atraumatic, listed to the right
singificantly. 
       EYES: pupils equal, round, reactive to light and
accommodation. 
       NECK/THYROID: neck supple, full range of motion, no
cervical lymphadenopathy. 
       SKIN: warm and dry no suspicious lesions no rashes. 
       HEART: no murmurs, regular rate and rhythm, S1, S2 
normal.

       LUNGS: clear to auscultation bilaterally. 
       ABDOMEN: normal, bowel sounds present, soft, nontender,
nondistended. 
       MUSCULOSKELETAL: cervical spine normal, full range of
motion, lumbosacral spine normal, no swelling or deformity. 
       Ambulation Ambulating with a normal heel to toe gait
independently. 
       EXTREMITIES: Gross motor strength is intact in terms of
deltoid, biceps, triceps, wrist extension/flexion, finger
extension/flexion and intrinsics, no clubbing, cyanosis, or
edema. 
       NEUROLOGIC: nonfocal, motor strength normal upper and
lower extremities, sensory exam intact

Exam Post op
gen: pleasant and cooperative with HC in place
skin: incision is clean, staples in place
neuro: full strength bilaterally, sensory intact
extr: no edema
 
Pertinent Results:
CT c-spine ___. Alignment of the anterior and posterior C1 arch fractures are 
overall 
similar to prior examination, although does appear to be mild 
interval osseous 
bridging of the posterior fracture lucency.  The degree of 
lateral subluxation 
of C1 on the right lateral mass of C2 is similar.  No evidence 
of bony callus 
formation. 
2. Alignment of type 3 odontoid fracture with minimal posterior 
subluxation of 
2 mm is also similar in position to prior examination, with 
increased lucency 
at the fracture site.  No evidence of bony callus formation. 
3. No additional fractures are identified. 
4. Prominent pannus posterior to the dens resulting in narrowing 
of the 
craniocervical junction is overall similar to prior exam, with 
remodeling of 
the cranial cervical junction. 

 
Brief Hospital Course:
Patient was admitted to Orthopedic Spine Service and underwent 
the above stated procedure(s) on consecutive days. Patient 
tolerated the procedures well without complication. Please 
review dictated operative report for details. Patient was 
extubated without incident and was transferred to PACU then 
floor in stable condition.  He was place on 20lbs traction and a 
cervical CT scan obtained on  
___ showed overall stable alignment with good reduction of 
facet.  Patient remained on bed ___ with traction until ___ 
and underwent the above state procedure for posterior cervical 
fusion with Dr. ___. 
 

During her course ___ were used for postoperative 
DVT prophylaxis.  Intravenous antibiotics were continued for 
24hrs postop per standard protocol. Initial postop pain was 
controlled with oral and IV pain medication. Diet was advanced 
as tolerated. Foley was removed in routine fashion and patient 
voided without incident.  

Physical therapy and Occupational therapy were consulted for 
mobilization OOB to ambulate and ADL's. Hospital course was 
otherwise unremarkable.

 

Now, Day of Discharge, patient is afebrile, VSS, and neuro 
intact. Patient tolerated a good oral diet and pain was 
controlled on oral pain medications. Patient head was better 
aligned and he ambulated.. Patient's wound is clean, dry and 
intact. Patient noted improvement in radicular pain. Patient is 
set for discharge to home in stable condition.

 
Medications on Admission:
REstasis eye drop
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Diazepam 5 mg PO Q8H:PRN pain, spasms 
RX *diazepam [Valium] 5 mg 1 tab by mouth every eight (8) hours 
Disp #*40 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - Mild 

RX *oxycodone 5 mg ___ tablet(s) by mouth q4-6h Disp #*80 Tablet 
Refills:*0 
5.  TraMADol 50 mg PO Q6H:PRN pain 
RX *tramadol 50 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*90 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
c1 fx
C2 fx
spinal instability

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Posterior Cervical Fusion

You have undergone the following operation: Posterior Cervical 
Decompression and Fusion

Immediately after the operation:

•                Activity:You should not lift anything greater 
than 10 lbs for 2 weeks.You will be more comfortable if you do 
not sit in a car or chair for more than~45 minutes without 
getting up and walking around.

•                Rehabilitation/ Physical ___ times a 
day you should go for a walk for ___ minutes as part of your 
recovery.You can walk as much as you can tolerate.Limit any kind 
of lifting. 

•                Cervical Collar / Neck Brace:You need to wear 
the brace at all times until your follow-up appointment which 
should be in 2 weeks.You may remove the collar to take a 
shower.Limit your motion of your neck while the collar is 
off.Place the collar back on your neck immediately after the 
shower.

•                Wound Care:Remove the dressing in 2 days.If the 
incision is draining cover it with a new sterile dressing.If it 
is dry then you can leave the incision open to the air.Once the 
incision is completely dry (usually ___ days after the 
operation) you may take a shower.Do not soak the incision in a 
bath or pool.If the incision starts draining at anytime after 
surgery,do not get the incision wet.Call the office at that 
time.If you have an incision on your hip please follow the same 
instructions in terms of wound care.

•                You should resume taking your normal home 
medications

•                You have also been given Additional Medications 
to control your pain.Please allow 72 hours for refill of 
narcotic prescriptions, so please plan ahead.You can either have 
them mailed to your home or pick them up at the clinic located 
on ___.We are not allowed to call in narcotic 
prescriptions (oxycontin,oxycodone,percocet) to the pharmacy.In 
addition,we are only allowed to write for pain medications for 
90 days from the date of surgery.

•                Follow up:

___                Please Call the office and make an 
appointment for 2 weeks after the day of your operation if this 
has not been done already.

___                At the 2-week visit we will check your 
incision,take baseline x rays and answer any questions.

___                We will then see you at 6 weeks from the 
day of the operation.At that time we will most likely obtain 
Flexion/Extension X-rays and often able to place you in a soft 
collar which you will wean out of over 1 week.

Please call the office if you have a fever>101.5 degrees 
Fahrenheit,drainage from your wound,or have any questions.

 

Posterior Cervical Fusion

You have undergone the following operation: Posterior Cervical 
Decompression and Fusion

Immediately after the operation:

•                Activity:You should not lift anything greater 
than 10 lbs for 2 weeks.You will be more comfortable if you do 
not sit in a car or chair for more than~45 minutes without 
getting up and walking around.

•                Rehabilitation/ Physical ___ times a 
day you should go for a walk for ___ minutes as part of your 
recovery.You can walk as much as you can tolerate.Limit any kind 
of lifting. 

•                Cervical Collar / Neck Brace:You need to wear 
the brace at all times until your follow-up appointment which 
should be in 2 weeks.You may remove the collar to take a 
shower.Limit your motion of your neck while the collar is 
off.Place the collar back on your neck immediately after the 
shower.

•                Wound Care:Remove the dressing in 2 days.If the 
incision is draining cover it with a new sterile dressing.If it 
is dry then you can leave the incision open to the air.Once the 
incision is completely dry (usually ___ days after the 
operation) you may take a shower.Do not soak the incision in a 
bath or pool.If the incision starts draining at anytime after 
surgery,do not get the incision wet.Call the office at that 
time.If you have an incision on your hip please follow the same 
instructions in terms of wound care.

•                You should resume taking your normal home 
medications

•                You have also been given Additional Medications 
to control your pain.Please allow 72 hours for refill of 
narcotic prescriptions, so please plan ahead.You can either have 
them mailed to your home or pick them up at the clinic located 
on ___.We are not allowed to call in narcotic 
prescriptions (oxycontin,oxycodone,percocet) to the pharmacy.In 
addition,we are only allowed to write for pain medications for 
90 days from the date of surgery.

•                Follow up:

___                Please Call the office and make an 
appointment for 2 weeks after the day of your operation if this 
has not been done already.

___                At the 2-week visit we will check your 
incision,take baseline x rays and answer any questions.

___                We will then see you at 6 weeks from the 
day of the operation.At that time we will most likely obtain 
Flexion/Extension X-rays and often able to place you in a soft 
collar which you will wean out of over 1 week.

Please call the office if you have a fever>101.5 degrees 
Fahrenheit,drainage from your wound,or have any questions.

 

 
Followup Instructions:
___